US07517875B2
A solution of 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-ol (72 mg, 0.10 mmol) in dimethylsulfoxide (1 ml) was added to a solution of 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one (44 mg, 0.157 mmol) in dimethylsulfoxide (1 ml), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into ice water (50 ml) and stirred at room temperature for 30 minutes, after which ethyl acetate was added and stirring was continued vigorously for 10 minutes for extraction. After washing with saturated aqueous sodium bicarbonate and then with saturated brine, the mixture was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-one.

reactant | 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-ol | 0.10 mmol, 72 mg | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(CC)O)COCC[Si](C)(C)C | C39H60N4O3Si2
reactant | 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one | 0.157 mmol, 44 mg | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 1-[2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-propan-1-one | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(CC)=O)COCC[Si](C)(C)C | C39H58N4O3Si2
